data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
896,969,[CH3:15][C:16](=[O:17])[CH:18]=[N+:19]([CH3:20])[C-:21]([CH3:22])[CH3:23].[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6]#[N:7])[C:8]#[C:9][CH2:10][CH2:11][CH2:12][CH2:13][CH2:14]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6]#[N:7])[C:8]2=[C:9]([CH2:10][CH2:11][CH2:12][CH2:13][CH2:14]1)[CH:18]([C:16]([CH3:15])=[O:17])[N:19]([CH3:20])[C:21]2([CH3:22])[CH3:23],water,298.15,14.218866161425131,-48.55076784388371
3947,4513,[CH3:10][NH:11][C:12](=[O:13])[N-:14][N+:15]([CH3:16])=[N:17][C:18]([CH3:19])=[O:20].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[N:17]([C:18]([CH3:19])=[O:20])[N:15]([CH3:16])[N:14]1[C:12]([NH:11][CH3:10])=[O:13],water,298.15,32.71489677704684,-11.02335716182502
10,10,[CH2:1]=[C:2]([CH3:3])[CH3:4].[CH3:5][C-:6]([C:7]#[N:8])[N+:9]#[C:10][C:11]#[N:12]>>[CH2:1]1[C:2]([CH3:3])([CH3:4])[C:6]([CH3:5])([C:7]#[N:8])[N:9]=[C:10]1[C:11]#[N:12],water,298.15,13.604004801369472,-51.00812639671986
3953,4520,[CH3:9][C:10](=[O:11])[C:12]([c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1)=[N+:19]([CH3:20])[NH-:21].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]/[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[NH:21][N:19]([CH3:20])[C:12]1([C:10]([CH3:9])=[O:11])[c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1,water,298.15,26.139401435837804,-8.304571288815902
2931,3266,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH3:5][C-:6]([C:7]#[N:8])[N+:9]#[C:10][C:11]#[N:12]>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[C:6]([CH3:5])([C:7]#[N:8])[N:9]=[C:10]1[C:11]#[N:12],water,298.15,15.59228968524724,-51.41410909856978
3741,4279,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH3:5][NH:6][C:7](=[O:8])[C-:9]([C:10](=[O:11])[O:12][CH3:13])[N+:14]([CH3:15])=[CH:16][C:17]([CH3:18])=[O:19]>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[C:9]([C:7]([NH:6][CH3:5])=[O:8])([C:10](=[O:11])[O:12][CH3:13])[N:14]([CH3:15])[CH:16]1[C:17]([CH3:18])=[O:19],water,298.15,32.2049295266713,-26.149735422877946
834,904,[CH3:10][NH:11][C:12](=[O:13])[C:14](=[O+:15][N-:16][C:17]#[N:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1.[CH3:1][NH:2][C:3](=[O:4])[C:5]#[C:6][C:7]([CH3:8])=[O:9]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([CH3:8])=[O:9])[C:14]([C:12]([NH:11][CH3:10])=[O:13])([c:19]2[cH:20][cH:21][cH:22][cH:23][cH:24]2)[O:15][N:16]1[C:17]#[N:18],water,298.15,13.955070107142198,-43.35266431256733
3096,3486,[CH2:1]=[CH2:2].[N:3]#[C:4][c-:5]1[o+:6][c:7](-[c:8]2[cH:9][cH:10][cH:11][cH:12][cH:13]2)[o:14][c:15]1=[O:16]>>[CH2:1]1[CH2:2][C:5]2([C:4]#[N:3])[O:6][C:7]1([c:8]1[cH:9][cH:10][cH:11][cH:12][cH:13]1)[O:14][C:15]2=[O:16],water,298.15,20.169843871872462,-20.92231759033488
4666,5321,[CH3:10][NH:11][C:12](=[O:13])[C:14](=[O+:15][C-:16]([CH3:17])[C:18]([CH3:19])=[O:20])[C:21](=[O:22])[O:23][CH3:24].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:14]([C:12]([NH:11][CH3:10])=[O:13])([C:21](=[O:22])[O:23][CH3:24])[O:15][C:16]1([CH3:17])[C:18]([CH3:19])=[O:20],water,298.15,14.068058537940535,-41.56261097422689
3008,3360,[CH3:1][C:2]([CH3:3])=[C:4]([CH3:5])[CH3:6].[CH3:7][O:8][C:9](=[O:10])[C:11]#[N+:12][NH-:13]>>[CH3:1][C:2]1([CH3:3])[C:4]([CH3:5])([CH3:6])[NH:13][N:12]=[C:11]1[C:9]([O:8][CH3:7])=[O:10],water,298.15,20.488624361593864,-46.1132219531489
3317,3759,[CH3:6][C-:7]([NH+:8]=[CH:9][C:10]#[N:11])[c:12]1[cH:13][cH:14][cH:15][cH:16][cH:17]1.[NH2+:1]=[C:2]([NH2:3])[NH:4][CH3:5]>>[NH2+:1]1[C:2]([NH2:3])([NH:4][CH3:5])[C:7]([CH3:6])([c:12]2[cH:13][cH:14][cH:15][cH:16][cH:17]2)[NH:8][CH:9]1[C:10]#[N:11],water,298.15,50.78052812393428,34.835531266816524
3640,4159,[CH3:9][NH:10][C:11](=[O:12])[C:13](=[NH+:14][NH-:15])[C:16](=[O:17])[O:18][CH3:19].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]/[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[NH:15][NH:14][C:13]1([C:11]([NH:10][CH3:9])=[O:12])[C:16](=[O:17])[O:18][CH3:19],water,298.15,22.89176604408689,-14.963017601527325
230,251,[CH3:1][O:2][C:3](=[O:4])[C:5]#[C:6][F:7].[CH3:8][NH:9][C:10](=[O:11])[c:12]1[nH+:13][c-:14]([C:15]#[N:16])[c:17](=[O:18])[o:19]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([F:7])[C:12]2([C:10]([NH:9][CH3:8])=[O:11])[NH:13][C:14]1([C:15]#[N:16])[C:17](=[O:18])[O:19]2,water,298.15,23.24061338472081,-23.572707918544893
2941,3281,[CH2:1]=[CH2:2].[CH3:3][CH:4]=[NH+:5][N-:6][c:7]1[cH:8][cH:9][cH:10][cH:11][cH:12]1>>[CH2:1]1[CH2:2][N:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[NH:5][CH:4]1[CH3:3],water,298.15,22.56062226898325,-22.771538876167067
